US07148226B2
1-(5-Bromo-2-chloro-phenyl)-ethanol
Methyl lithium (11.6 mL, 16.3 mmol, 1.4M in ether) was added to a cooled −78° C. solution of 5-bromo-2-chloro-benzaldehyde (2.75 g, 12.5 mmol) dissolved in THF (40 mL). The reaction mixture was stirred for 15 hours and then quenched with saturated NH4Cl and extracted with EtOAc. The organic extracts were washed with 1N HCl, brine, dried over Na2SO4 and concentrated to an oil. The oil was purified by flash column chromatography (0% to 10% EtOAc in hexanes) to give the title compound as a solid (2.63 g, 91%). 1H NMR (400 MHz, CDCl3): δ 6.32 (d, J=6.3 Hz, 3 H), 2.00 (d, J=3.8 Hz, 1 H), 5.24 (m, 1 H), 7.19 (d, J=8.6 Hz, 1 H), 7.33 (dd, J=8.6, 2.5 Hz, 1 H), 7.75 (d, J=2.5 Hz, 1 H).

reactant | Methyl lithium | 16.3 mmol, 1.4M, 11.6 mL | C[Li]
reactant | 5-bromo-2-chloro-benzaldehyde | 12.5 mmol, 2.75 g | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-(5-Bromo-2-chloro-phenyl)-ethanol | 2.63 g, 91% | BrC=1C=CC(=C(C1)C(C)O)Cl | C8H8BrClO
